US08865713B2
Step B: 2,5,6-Trichloro-1H-benzoimidazole:
Thoroughly dried 5,6-dichloro-1,3-dihydro-benzoimidazol-2-one (28.4 g, 0.14 mol) was suspended in POCl3 (75 mL). The reaction solution was heated to reflux temperature for 3 hours and cooled to room temperature. The solution was poured into crushed ice/water (1.5 L) slowly with sufficient stirring. The solution was neutralized to pH=7.0 with NaOH. The precipitated solid was collected by filtration, washed with water, and dried to afford the title compound (27.9 g, 90%). The crude product was used in the following reaction without further purification.

reactant | 5,6-dichloro-1,3-dihydro-benzoimidazol-2-one | 0.14 mol, 28.4 g | ClC1=CC2=C(NC(N2)=O)C=C1Cl | C7H4Cl2N2O
reactant | NaOH | [OH-].[Na+]
reactant | POCl3 | 75 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,5,6-Trichloro-1H-benzoimidazole | 27.9 g, 90% | ClC1=NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3Cl3N2
